US05807883
A stirred solution of 270 mg of sodium hydride was added to 1.00 g of 2,3-dihydro-1H-indol-2,3-dione in dimethylformamide at room temperature. After the reaction mixture was stirred at room temperature for 10 minutes, 5 ml of a dimethylformamide solution of 2.10 g of pentyl bromide was added dropwise thereto. After the reaction mixture was stirred at room temperature for 20 minutes, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. After the extract was washed with water and dried, the solvent was removed by evaporation. The residue was purified by silica gel column chromatography [ethyl acetate-hexane (1:5)] to afford 1.31 g of 2,3-dihydro-1-pentyl-1H-indol-2,3-dione as orange crystals. Melting point: 50° to 51° C.

reactant | sodium hydride | 270 mg | [H-].[Na+]
reactant | 2,3-dihydro-1H-indol-2,3-dione | 1.00 g | N1C(C(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | pentyl bromide | 2.10 g | C(CCCC)Br | C5H11Br
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2,3-dihydro-1-pentyl-1H-indol-2,3-dione | 1.31 g | C(CCCC)N1C(C(C2=CC=CC=C12)=O)=O | C13H15NO2
